US08053436B1
(±)-1-(Oxiran-2-ylmethyl)-4-(3-piperidin-1-ylpropyl)piperazine
The same method as employed in the preparation of Intermediate 1 but starting from 1-(3-piperidin-1-ylpropyl)piperazine and (±)-3-nitro-benzenesulfonic acid oxiranylmethyl ester gives after flash chromatography the title compound as an orange oil in a 64% yield.

reactant | 1-(3-piperidin-1-ylpropyl)piperazine | N1(CCCCC1)CCCN1CCNCC1 | C12H25N3
reactant | (±)-3-nitro-benzenesulfonic acid oxiranylmethyl ester | O1C(C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
product | (±)-1-(Oxiran-2-ylmethyl)-4-(3-piperidin-1-ylpropyl)piperazine | 64% yield | O1C(C1)CN1CCN(CC1)CCCN1CCCCC1 | C15H29N3O
